US05470993
Step 2: Preparation of 7,9dimethylbicyclo-[4.3.0]-nona-1(6),7-diene
Methyl lithium (96 mL, 1.5M, 0.144 mol) was added dropwise to a solution of 4,5,6,7-tetrahydro-1-methyl-indan-3-one (17.7 g, 0.118 mol) in 50 mL of diethyl ether under an argon atmosphere whereupon the reaction mixture was refluxed for 18 hours. The mixture was hydrolyzed, and extracted with diethyl ether. The ether extracts were dried over anhydrous MgSO4 and filtered. To the ether solution 0.5 mL of 6M HCl was added and the solution was stirred for one hour. After this time period the ether solution was washed with water, dried over anhydrous MgSO4, filtered, and concentrated. Distillation at reduced pressure afforded 8.0 g (45 percent) of product.

reactant | Methyl lithium | 0.144 mol, 1.5M, 96 mL | C[Li]
reactant | 4,5,6,7-tetrahydro-1-methyl-indan-3-one | 0.118 mol, 17.7 g | CC1CC(C=2CCCCC12)=O | C10H14O
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | 7,9dimethylbicyclo-[4.3.0]-nona-1(6),7-diene | 8.0 g, 45 percent | CC=1C=2CCCCC2C(C1)C | C11H16
